US05696111
Preparation of 1-methyl-3-tertbutyloxycarbonylamino-2,3,4,5-tetrahydro-2,5-dioxobenzazepine
A solution of 3-tertbutyloxycarbonylamino-2,3,4,5-tetrahydro-2,5-dioxobenzo[b]azepine (5 g, 17.2 mmole) in DMF (50 mL) was treated with potassium carbonate (4.76 g, 34.4 mmole) and methyl iodide (4.88 g, 34.4 mmole). The reaction was stirred at ambient temperature for 4 hours. The mixture was diluted with ethyl acetate (300 ml) and saturated aqueous sodium hydrogen carbonate (500 ml). The organic layer was separated and the aqueous layer was extracted again with ethyl acetate (2×300 ml). The organic layers were combined, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was swished with warm ethyl ether (200 mL) and collected by filtration to give 4.1 g of the product. mp 205°-206° C.

reactant | 3-tertbutyloxycarbonylamino-2,3,4,5-tetrahydro-2,5-dioxobenzo[b]azepine | 17.2 mmole, 5 g | C(C)(C)(C)OC(=O)NC1CC(C2=C(NC1=O)C=CC=C2)=O | C15H18N2O4
reactant | potassium carbonate | 34.4 mmole, 4.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 34.4 mmole, 4.88 g | CI | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 500 ml | C(O)([O-])=O.[Na+]
product | 1-methyl-3-tertbutyloxycarbonylamino-2,3,4,5-tetrahydro-2,5-dioxobenzazepine | 4.1 g | CN1C(C(CC(C2=C1C=CC=C2)=O)NC(=O)OC(C)(C)C)=O | C16H20N2O4
